US07723368B2
Step a) (3-Ethynyl-phenyl)-carbamic acid tert-butyl ester
A solution of 3-ethynyl-phenylamine (25.0 g, 213 mmol) and di-tert-butyldicarbonate (93.1 g, 427 mmol) in THF (427 mL) was heated at 70° C. overnight. The reaction was cooled to room temperature and then 3-dimethylamino-1-propylamine (32.1 g, 320 mmol) was added and allowed to stir at room temperature for 1 h. The reaction was concentrated and taken in diethyl ether, washed with 1N HCl, brine, sodium bicarbonate, brine and dried over sodium sulfate and concentrated in vacuo to provide the title compound (45.0 g, 97%), characterized by NMR and mass spectral analyses.

reactant | 3-ethynyl-phenylamine | 213 mmol, 25.0 g | C(#C)C=1C=C(C=CC1)N | C8H7N
reactant | di-tert-butyldicarbonate | 427 mmol, 93.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-dimethylamino-1-propylamine | 320 mmol, 32.1 g | CN(CCCN)C | C5H14N2
solvent | THF | 427 mL | C1CCOC1 | C4H8O
product | (3-Ethynyl-phenyl)-carbamic acid tert-butyl ester | 45.0 g, 97% | C(C)(C)(C)OC(NC1=CC(=CC=C1)C#C)=O | C13H15NO2
